* Back - annotated simulation file written by InductEx v .6.0.4 on 11 -6 -21.
* Author : L . Schindler
* Version : 2.1
* Last modification date : 11 June 2021
* Last modification by : L . Schindler

* $Ports a q
.subckt buff a q
.model jjmit jj(rtype =1, vg=2.8mV, cap=0.07pF, r0=160, rn=16, icrit=0.1mA)
.param Phi0 =2.067833848E-15
.param B0 =1
.param Ic0 =0.0001
.param IcRs =100u *6.859904418
.param B0Rs = IcRs / Ic0 * B0
.param Rsheet =2
.param Lsheet =1.13e-12
.param LP =0.2p
.param IC =2.5
.param Lptl =2p
.param LB =2p
.param BiasCoef =0.7

.param B1 = IC
.param B2 = IC
.param B3 = IC
.param B4 = IC
.param IB1 = B1 * Ic0 * BiasCoef
.param IB2 = B2 * Ic0 *0.95
.param IB3 = B3 * Ic0 *0.95
.param IB4 = B4 * Ic0 * BiasCoef
.param LB1 = LB
.param LB2 = LB
.param LB3 = LB
.param LB4 = LB
.param L1 = Phi0/(4* IC * Ic0 )
.param L2 = Phi0/(2* B1 * Ic0 )
.param L3 = Phi0/(2* B2 * Ic0 )
.param L4 = Phi0/(2* B3 * Ic0 )
.param L5 = Phi0/(4* IC * Ic0 )
.param RB1 = B0Rs/B1
.param RB2 = B0Rs/B2
.param RB3 = B0Rs/B3
.param RB4 = B0Rs/B4
.param LRB1 =(RB1/Rsheet) * Lsheet + LP
.param LRB2 =(RB2/Rsheet) * Lsheet + LP
.param LRB3 =(RB3/Rsheet) * Lsheet + LP
.param LRB4 =(RB4/Rsheet) * Lsheet + LP
.param LP1 = LP
.param LP2 = LP
.param LP3 = LP
.param LP4 = LP

B1 1 2 jjmit area=B1
B2 4 5 jjmit area=B2
B3 7 8 jjmit area=B3
B4 10 11 jjmit area=B4

IB1 0 3 pwl(0 0 5p IB1)
IB2 0 6 pwl(0 0 5p IB2)
IB3 0 9 pwl(0 0 5p IB3)
IB4 0 12 pwl(0 0 5p IB4)

L1 a 1 2.057E-12
L2 1 4 4.026E-12
L3 4 7 4.155E-12
L4 7 10 4.057E-12
L5 10 q 2.057E-12

LP1 2 0 5.283E-13
LP2 5 0 5.327E-13
LP3 8 0 5.084E-13
LP4 11 0 5.269E-13

LB1 1 3 LB1
LB2 4 6 LB2
LB3 7 9 LB3
LB4 10 12 LB4

RB1 1 101 RB1
RB2 4 104 RB2
RB3 7 107 RB3
RB4 10 110 RB4

LRB1 101 0 LRB1
LRB2 104 0 LRB2
LRB3 107 0 LRB3
LRB4 110 0 LRB4
.ends