
* **********************************************************************
* Author      : LPGG
* Date        : 09/10/2020
* Description : SFQ Pulse generator
* Notes       :
*  - Taken from Superconducting-Temporal-Logic 
*    https://github.com/UCSBarchlab/Superconducting-Temporal-Logic.git
*  - Use this file to generate SFQ pulses from slow DC pulses
*  - The jjr element is defined at a higher level
* **********************************************************************

* RSFQ Pulse Generation
* RS = JJ damping shunts, using Stewart-McCumber parameter with B_c = 1

.subckt dcsfq IN OUT VBIAS

B0 9 5 jjr area=2.16
RS0 9 5 4
B1 10 11 jjr area=2.16
RS1 10 11 2.7
B2 12 13 jjr area=2.16
RS2 12 13 4.6
B3 7 14 jjr area=2.16
RS3 7 14 4

L0 12 0 3.58pH

LP0 8 6 0.08pH
LP1 4 9 1.29pH
LP2 5 6 1.13pH
LP3 6 10 1.74pH
LP4 5 7 0.21pH
LP5 4 12 1.27pH
LP6 11 0 0.13pH
LP7 13 7 0.69pH
LP8 14 0 0.18pH

LT0 10 OUT 2.11pH
LT1 IN 4 3.38pH

R0 VBIAS 8 27

.ends


