* Author: L. Schindler
* Version: 3.0
* Last modification date: 14 April 2022
* Last modification by: T. Hall

* Copyright (c) 2018-2022 Lieze Schindler, Tessa Hall, Stellenbosch University

* Permission is hereby granted, free of charge, to any person obtaining a copy
* of this cell library and associated documentation files (the "Library"), to deal
* in the Library without restriction, including without limitation the rights
* to use, copy, modify, merge, publish, distribute, sublicense, and/or sell
* copies of the Library, and to permit persons to whom the Library is
* furnished to do so, subject to the following conditions:

* The above copyright notice and this permission notice shall be included in all
* copies or substantial portions of the Library.

* THE LIBRARY IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS OR
* IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF MERCHANTABILITY,
* FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT. IN NO EVENT SHALL THE
* AUTHORS OR COPYRIGHT HOLDERS BE LIABLE FOR ANY CLAIM, DAMAGES OR OTHER
* LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE, ARISING FROM,
* OUT OF OR IN CONNECTION WITH THE LIBRARY OR THE USE OR OTHER DEALINGS IN THE
* LIBRARY.

*For questions about the library, contact Tessa Hall, 19775539@sun.ac.za

*$Ports 	a	q
.subckt dcsfq a q
.model jjmit jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=160, rn=16, icrit=0.1mA)
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2 
.param Lsheet=1.13e-12 
.param LP=0.5p
.param IC=2.5
.param ICreceive=1.6
.param ICtrans=2.5
.param LB=2p
.param BiasCoef=0.7
.param Lptl=2p
.param RD=1.36

.param B1=0.9*Ic
.param B2=0.9*Ic
.param B3=IC
.param B4=ICtrans

.param IB1=(11/9)*Ic0*B2
.param IB2=BiasCoef*Ic0*5

.param LB1=LB
.param LB2=LB

.param LP2=LP
.param LP3=LP
.param LP4=LP

.param L1=1p
.param L2=3.9p
.param L3=0.6p
.param L4=1.1p
.param L5=Phi0/4.5
.param L6=Phi0/(4*2.5)
.param L7=Phi0/(4*2.5)
.param L8=Lptl

.param RB1=6.86/B1
.param RB2=6.86/B2
.param RB3=6.86/B3
.param RB4=6.86/B4

.param LRB1=(3.049/2)*1.13
.param LRB2=(3.049/2)*1.13+LP
.param LRB3=(2.744/2)*1.13+LP
.param LRB4=(2.744/2)*1.13+LP

B1 2 3 jjmit  area=2.25
B2 5 6 jjmit  area=2.25
B3 7 8 jjmit  area=2.5
B4 11 12 jjmit  area=2.5
IB1 0 4 pwl(0 0 5p 275e-6)
IB2 0 10 pwl(0 0 5p 350e-6)
LB1 4 3 2e-12
LB2 10 9 2e-12
LP2 6 0  0.5e-12
LP3 8 0  0.5e-12
LP4 12 0 0.5e-12
L1 a 1 1e-12
L2 1 0 3.9e-12
L3 1 2 0.6e-12
L4 3 5 1.1e-12
L5 5 7 4.6e-12
L6 7 9 2.068e-12
L7 9 11 2.068e-12
L8 11 13 2e-12
RD 13 q 1.36
RB1 2  102 3.049
RB2 5  105 3.049
RB3 7  107 2.744
RB4 11 111 2.744
LRB1 102 3 1.7227e-12
LRB2 105 0 2.2227e-12
LRB3 107 0 2.05e-12
LRB4 111 0 2.05e-12
.ends
