
** BQ with Single direction **



.subckt CB IN OUT


L1 IN 1 1.5p
L2 1 2 .5p
L3 3 4 .5p
L4 4 OUT 3.5p
BJ1 1 0 jjmit area=2.5
RJ1 1 0 4
BJ2 2 3 jjmit area=2.2
* RJ2 2 3 14

IB1 0 4 pwl(0 0 5p 190u)
.model jjmit jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=160, rN=16, icrit=0.1mA)
.ends CB