* BQ Buffer Cell v2 - IC scaled for BVM output (~59uA).
* JL1/JL2 both overdamped (Bc~1).
*
* BJs  IC=50uA  (area=0.5)  - triggers on BVM SL + bias
* BJL1 IC=36uA  (area=0.36) - DC bias path, RJ1=33 (Bc_Re~1)
* BJL2 IC=54uA  (area=0.54) - output isolation, RJ2=22 (Bc_Re~1)
*
* NOTE: For standalone testing with ideal current source, use:
*   IBias=35uA, Iin=90uA pulse, Rload=10
*   Achieves Vout~1mV SFQ pulses (5/5 correct)
*
* NOTE: For BVM+BQ chain, additional input bias (~15uA) may be
*   needed to forward-bias BJs. BVM SL output impedance (~15ohm)
*   limits current delivery. See test/final/single_bvm_qb/ for details.

.subckt BQ IN OUT IB

Lin IN 1 0.8p
L0 4 OUT 1.323p
L1 2 3 3.91p
L2 3 4 3.91p
BJs 1 2 jjmit area=0.5
BJL1 2 0 jjmit area=0.36
RJ1 2 0 33
BJL2 4 0 jjmit area=0.54
RJ2 4 0 22
RB IB 3 6

.ends BQ
